US04876271
5-Methylaminomethylthieno[3,2-b]thiophene-2-sulfonamide (0.53 g., 2.0 mmoles) was dissolved in boiling ethanol (75 mL), filtered and the ethanolic solution concentrated to 50 mL. Ethanolic HCl (5.10M., 0.43 mL., 2.2 mmoles) was added to the warm solution and the flask swirled to make fine crystals. The flask was cooled in the freezer for 1.5 hours. Crystals were collected and washed with cold ethanol, and then with ether, to give 0.50 g of 5-methylaminomethylthieno[3,2-b]thiophene-2-sulfonamide hydrochloride, mp 245°-250° C. (D).

reactant | 5-Methylaminomethylthieno[3,2-b]thiophene-2-sulfonamide | 2.0 mmoles, 0.53 g | CNCC1=CC=2SC(=CC2S1)S(=O)(=O)N | C8H10N2O2S3
reactant | HCl | 2.2 mmoles, 5.10M, 0.43 mL | Cl | ClH
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 5-methylaminomethylthieno[3,2-b]thiophene-2-sulfonamide hydrochloride | 0.50 g | Cl.CNCC1=CC=2SC(=CC2S1)S(=O)(=O)N | InChI=1S/C8H10N2O2S3.ClH/c1-10-4-5-2-6-7(13-5)3-8(14-6)15(9,11)12;/h2-3,10H,4H2,1H3,(H2,9,11,12);1H
